Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Demerol / Codeine / Tape ___ / Morphine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
PICC line insertion ___

 
History of Present Illness:
___ year old woman with chronic pancreatitis. She was placed on 
TPN this past ___. She had reportedly been doing much better, 
but did have occasional flares. Over the last couple of days she 
started having a classic flare with pain in the epigastric area 
radiating around to the back. It is made worse with sips and 
laying down flat. She had one episode of diarrhea yesterday. She 
has also had intermittent nausea.  
.  
In the ED, she was given IVF and IV dilaudid. Her pain improved 
from a 7 to a 6.  
.  
ROS: Patient notes she had a temp of 100.1 on ___. She has 
some nasal congestion, but otherwise feels well. Denies sore 
throat, cough, shortness of breath, chest pain, vomiting, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 
She was recently with her young granchildren, but no known sick 
contacts.
 
Past Medical History:
1) Recurrent pancreatitis: Started after partial pancreatectomy  

in ___. Then not recurrent until ___. Was hospitalized in  
___ for pancreatitis, underwent an ERCP with sphincterotomy and 
 
stent placement in panc duct. Further episodes in ___  
with same ERCP again and stent extension. In ___, another bout  

of acute pancreatitis, but ERCP this time showed no duct  
stenosis. ?in the past thought to be due to autoimmune, but did  

not improve with tx. Last admit, markers not suggestive.  
2) Hemolytic anemia: reaction to Keflex, treated with  
splenectomy in ___.  
3) s/p ccy in ___  
4) s/p appy in ___  
5) Asthma: mild intermittent, uses no meds at baseline  
6) hypothyroidism  
7) s/p tubal ligation  
8) Depression  
9) Right UE DVT in the setting of central line, on coumadin  
since ___, no longer on coumadin.
 
Social History:
___
Family History:
Father- lung cancer  
sister- ___  
Mother- osteoporosis, HTN, hypothyroidism, T2DM, chronic pain  

 
Physical Exam:
VS: 98.6 101 128/88 16 100 RA  
GENERAL - sitting upright in bed covered in blankets  
HEENT - NC/AT, pupils equal, sclerae anicteric, MMM  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp unlabored 
 
HEART - RR, no MRG, nl S1-S2  
ABDOMEN - soft/ND, tenderness to palpation in epigastric area 
and L>R upper quadrants  
EXTREMITIES - WWP, 2+ peripheral pulses, left sided PICC  
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3  

 
Pertinent Results:
Admission labs:
___ 11:45PM BLOOD WBC-13.3* RBC-4.10* Hgb-12.1 Hct-35.7* 
MCV-87 MCH-29.6 MCHC-34.0 RDW-13.0 Plt ___
___ 11:45PM BLOOD Neuts-65.3 ___ Monos-6.6 Eos-1.6 
Baso-0.9
___ 11:45PM BLOOD Glucose-88 UreaN-14 Creat-0.7 Na-137 
K-4.0 Cl-104 HCO3-23 AnGap-14
___ 11:45PM BLOOD ALT-17 AST-26 AlkPhos-91 TotBili-0.4
___ 11:45PM BLOOD Albumin-4.5 Cholest-132
.
Other labs:
___ 06:45AM BLOOD ___ PTT-29.4 ___
___ 05:00AM BLOOD ___ PTT-33.0 ___
___ 06:45AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 12:45PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Ovalocy-OCCASIONAL
___ 05:00AM BLOOD ESR-28*
___ 11:45PM BLOOD Triglyc-104 HDL-34 CHOL/HD-3.9 LDLcalc-77
___ 06:45AM BLOOD CRP-10.3*
___ 07:25AM BLOOD Vanco-12.5
___ 06:17AM BLOOD Vanco-21.8*
___ 06:35AM BLOOD Vanco-27.2*
___ 11:56PM BLOOD Lactate-1.0
___ 01:09PM BLOOD Lactate-1.2
.
WBC trend
___ 11:45PM BLOOD WBC-13.3* RBC-4.10* Hgb-12.1 Hct-35.7* 
MCV-87 MCH-29.6 MCHC-34.0 RDW-13.0 Plt ___
___ 06:45AM BLOOD WBC-28.0*# RBC-3.92* Hgb-11.5* Hct-34.7* 
MCV-89 MCH-29.3 MCHC-33.0 RDW-13.1 Plt ___
___ 12:45PM BLOOD WBC-32.2* RBC-3.63* Hgb-11.0* Hct-32.2* 
MCV-89 MCH-30.2 MCHC-34.1 RDW-13.2 Plt ___
___ 12:45PM BLOOD WBC-32.2* RBC-3.63* Hgb-11.0* Hct-32.2* 
MCV-89 MCH-30.2 MCHC-34.1 RDW-13.2 Plt ___
___ 05:00AM BLOOD WBC-15.8*# RBC-3.07* Hgb-9.3* Hct-28.5* 
MCV-93 MCH-30.3 MCHC-32.6 RDW-13.5 Plt ___
___ 07:31AM BLOOD WBC-14.8* RBC-3.28* Hgb-9.8* Hct-29.3* 
MCV-90 MCH-29.9 MCHC-33.4 RDW-13.3 Plt ___
___ 07:57AM BLOOD WBC-8.9 RBC-3.26* Hgb-9.7* Hct-30.2* 
MCV-93 MCH-29.8 MCHC-32.2 RDW-13.4 Plt ___
.
LFT trend
___ 05:00AM BLOOD ALT-53* AST-79* AlkPhos-87 TotBili-0.8
___ 07:31AM BLOOD ALT-65* AST-101* AlkPhos-104 TotBili-0.9
___ 07:57AM BLOOD ALT-44* AST-47* AlkPhos-103 TotBili-0.5
___ 07:25AM BLOOD ALT-34 AST-30 AlkPhos-96 TotBili-0.4
___ 09:00AM BLOOD ALT-44* AST-63* AlkPhos-142* TotBili-0.3
___ 06:17AM BLOOD ALT-43* AST-54* AlkPhos-133* TotBili-0.3
.
Discharge labs:
___ 06:00AM BLOOD WBC-7.7 RBC-3.86* Hgb-11.6* Hct-34.3* 
MCV-89 MCH-30.0 MCHC-33.7 RDW-13.9 Plt ___
___ 06:00AM BLOOD Glucose-85 UreaN-7 Creat-0.8 Na-140 K-4.6 
Cl-101 HCO3-32 AnGap-12
___ 06:17AM BLOOD ALT-43* AST-54* AlkPhos-133* TotBili-0.3
___ 06:00AM BLOOD Calcium-9.1 Phos-5.7* Mg-2.2
.
.
Urine
___ 02:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 02:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 02:00AM URINE UCG-NEG
___ 05:15PM URINE Color-Red Appear-Hazy Sp ___
___ 05:15PM URINE Blood-LG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-SM
___ 05:15PM URINE RBC->50 WBC-6* Bacteri-NONE Yeast-NONE 
Epi-0
.
.
Microbiology:
___ 11:45 pm BLOOD CULTURE      FROM PICC LINE. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    FINAL 
SENSITIVITIES. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    SECOND MORPHOLOGY. 
         FINAL SENSITIVITIES. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |          STAPHYLOCOCCUS, 
COAGULASE NEGATIVE
                             |          |   
CLINDAMYCIN-----------<=0.25 S   <=0.25 S
ERYTHROMYCIN----------<=0.25 S   <=0.25 S
GENTAMICIN------------ <=0.5 S    <=0.5 S
LEVOFLOXACIN----------<=0.12 S   <=0.12 S
OXACILLIN-------------<=0.25 S   <=0.25 S
TETRACYCLINE----------   <=1 S        2 S
VANCOMYCIN------------     1 S        2 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
.
___ 11:10 am BLOOD CULTURE      SET 1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
.
___ 11:53 am BLOOD CULTURE      Source: Line-PICC SET 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    FINAL 
SENSITIVITIES. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     1 S

   Aerobic Bottle Gram Stain (Final ___:  
      GRAM POSITIVE COCCI IN CLUSTERS. 
.
___ 7:31 am BLOOD CULTURE      Source: Line-PICC 1 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    FINAL 
SENSITIVITIES. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     1 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI. 
      IN PAIRS AND CLUSTERS. 
.
BC ___ and ___ negative
BC ___ pending at time of writing
.
___ 10:12 am CATHETER TIP-IV      Source: picc line. 

                            **FINAL REPORT ___

   WOUND CULTURE (Final ___:    No significant growth. 
.
___ 6:00 am STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 
.
Further C difficile toxin x3 negative and ova, cysts and 
parasites negative x3
.
___ 5:15 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
.
.
Cardiology:
ECG Study Date of ___  9:03:38 ___ 
 
  
Artifact is present. Sinus rhythm. Non-specific ST-T wave 
changes. No previous 
tracing available for comparison.  
  
 
Read by: ___. 
 
  ___ Axes 
Rate PR QRS QT/QTc P QRS T 
78 142 82 ___ 15 
.
TTE (Complete) Done ___ at 11:27:14 AM      FINAL 
The left atrium is elongated. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Right ventricular chamber size and free wall motion are 
normal. The diameters of aorta at the sinus, ascending and arch 
levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
regurgitation. No masses or vegetations are seen on the aortic 
valve. The mitral valve appears structurally normal with trivial 
mitral regurgitation. No mass or vegetation is seen on the 
mitral valve. The estimated pulmonary artery systolic pressure 
is normal. No vegetation/mass is seen on the pulmonic valve. 
There is no pericardial effusion. 

IMPRESSION: No vegetations or clinically-significant regurgitant 
valvular disease seen (good-quality study). Normal global and 
regional biventricular systolic function.
.
.
Radiology:
CHEST (PA & LAT) Study Date of ___ 5:34 AM 
FINDINGS: In comparison with study of ___, there is little 
change and no evidence of acute cardiopulmonary disease. No 
pneumonia, vascular congestion, or pleural effusion. The tip of 
the left subclavian catheter is in the mid portion of the SVC. 
.
CT ABD & PELVIS W & W/O CONTRAST, ADDL SECTIONS Study Date of 
___ 5:56 ___ 
FINDINGS:  
  
CT ABDOMEN: 
Inflammatory change with associated gravitational atelectasis 
and 
bronchiolectasis is noted in the lower lobes bilaterally, 
greater on the 
right side. There is a 5-mm nodule identified laterally in the 
right lower 
lobe measuring 5 mm (series 3 image 11) which is likely 
reactive.  
  
No evidence for pneumoperitoneum.  
There is mild intrahepatic biliary dilatation predominantly 
within the right lobe, stable since prior CT in ___. There has 
been prior cholecystectomy.  
The main portal vein is patent. Common bile duct is dilated at 
the head of the pancreas measuring 12 mm (series 3 image 24) 
again stable when compared with prior imaging.  
There has been previous partial pancreatectomy, cholecystectomy 
and splenectomy. Splenule noted in the left upper quadrant. The 
pancreatic duct is uniformly dilated throughout the remainder of 
the pancreas measuring maximum 3 mm. No peripancreatic stranding 
or fluid to suggest active pancreatitis at this time. 
Unremarkable hepaticojejunostomy. The adrenal glands and kidneys 
are unremarkable.  
No retroperitoneal masses or adenopathy. 
  
CT PELVIS:  
The rectum and sigmoid colon are normal. The uterus is normal 
with an endometrial stripe cavity consistent with patient's age. 
No adnexal masses, no pelvic adenopathy or free fluid. No acute 
intra-abdominal abscess identified.  
  
  
CT OSSEOUS SKELETON:  
No osseous destructive lesion. 
  
IMPRESSION:  
  
1. The patient is status post partial pancreatectomy in ___. No 
evidence for acute pancreatitis or abscess.  
  
2. Inflammatory change noted in the right lower lobe 
.
CHEST (PA & LAT) Study Date of ___ 5:18 ___ 
IMPRESSION: PA and lateral chest compared to ___, 
and ___: 
  
Small bilateral pleural effusion is new since ___. Lungs are 
clear.  
Heart size normal. The pulmonary vasculature is more full today 
than it was on the previous study but not pathologically so, and 
mediastinal veins are not dilated. Left PIC line has been 
removed.

 
Brief Hospital Course:
___ woman with a history of chronic pancreatitis. She is 
presenting with symptoms similar to her prior episodes. Found to 
have rising WBC up to 32.2 on ___nd he 
was presumptively treated with IV metronidazole for c difficile 
but patient had no diarrhea and had CT abdomen which showed 
biliary dilatation which was stable. WCC resolved by ___ during 
stay and found to have GPCs on BCs later found to be 
pan-sensitive coagulase -negative staph. Patient was started on 
IV vancomycin ___ and PICC pulled as this was the likely source 
of infection. IV metronidazole was stopped as c difficile toxin 
-negative x3. Patient had a fever ___ to 101.1F and none further 
and no further positive BC with otherwise negative infection 
screen. PICC replaced ___ for home IV antibiotics as normal WCC 
and afebrile. Patient began to start eating and by the day prior 
to discharge was eating solids without significant pain or 
vomiting. Dietitian recommended supplements with Ensure and the 
patient was discharged on ___.
.  
# Chronic Pancreatitis: This was felt to represent on of her 
normal pancreatitis flares with  tender abdomen without guarding 
or rebound tenderness. Patient was treated initially with IV 
dilaudid, IV compazine for mild nausea without vomiting and TPN 
until blood cultures were positive at which point her PICC was 
removed. On the day after admission, her WCC rose to 32.2 and IV 
metronidazole was presumptively started for possible c 
difficile. She proceeded to a CXR which showed no free air and a 
CT which showed stable biliary dilatation and no acute process. 
She had no symptoms and latterly this was felt to be reactive to 
her bacteremia in the setting of asplenism. Her WCC resolved to 
normal after commencing IV vancomycin for her coagulase negative 
staph bacteremia. Patient had a fever of 101.1F on ___ and a 
septic screen was negative. She had no further fevers. Patient 
was eating better ___ and nausea was under control and CXR shows 
tiny effusions and some pulmonary vascular congestion at which 
point IV fluids were stopped and did not require re-institution. 
PICC was inserted ___ after afebrile and normal WCC for home IV 
antibiotics. We tapered down her dilaudid and by ___ was 
tolerating her home oral regimen. Patient was discharged home 
with laxatives on her home dilaudid dose on ___. She was 
reviewed by dietitian who recommended supplementation with 
Ensure which she will purchase. She will see her PCP ___ ___ and 
has a gastroenterology appointment on ___. Her antibiotics will 
finish on ___.
.
# CoNS Bacteremia due to line infection: GPCs in 3 sets of BCs 
from PICC ___ and ___ which grew pan-sensitive coagulase 
negative staphylococci. This was felt likely secondary to a line 
infection in the setting of TPN via her PICC which did not 
appear cellulitic on admission. She remained stable and appeared 
well other than pain throughout her hospital stay. Echo on 
___ was normal with no vegetations. She was started on IV 
vancomycin (due to initial concern for MRSA) on ___ and this was 
continued despite pan-sensitive isolates given preferable dosing 
frequency and previous hemolytic anemia with cephalosporins. 
Patient had a fever of 101.1F on ___ and a septic screen was 
negative. She had no further fevers. PICC was inserted ___ after 
afebrile and normal WCC for home IV antibiotics. She had a low 
vancomycin level on ___ and dose was increased to 1250mg bid 
however she had high levels on this dose of 21.8 and 27.2 (on 
the day of discharge) and her dose was decreased back to 1g bid. 
Pharmacy latterly felt that her vancomycin level may rise given 
the trend on ___ and would consider repeat Chem 7/vancomycin 
level to assess renal function and vancomycin level in light of 
possible vancomycin accumulation. A message was left for her PCP 
who will see her on ___. She was discharged home on ___ and 
her IV vancomycin will continue until ___.
.
# Malnutrition, mod: Patient was initially receiving TPN in the 
community but given PICC line infection her PICC was removed and 
she was started on IV fluids and kept NPO. Outpatient plan was 
to wean TPN in community and trial eating and if failed to 
consider Jej tube placement. Patient slowly advanced her diet 
and by ___ was eating better and nausea was under control. She 
advanced her diet to full regular on ___ and she tolerated this. 
She will trial a normal oral diet in the community but if this 
fails she may have to consider J-tube placement given the fact 
that this is her second PICC line infection. She was seen by 
dietitian on the day of discharge who recommended supplemental 
Ensure which she will purchase.
.
# Constipation: Patient was constipated and we started senna, 
docusate and PRN miralax, lactulose and suppositories which was 
effective. She was informed to continue these as needed in the 
community.
.
# Leukocytosis: WBC rose to 32.2 precipitously on ___. Patient 
had one episode of loose stools on the day prior to admission 
and had none further. There was no colitis on CT to suggest c 
difficile and patient was presumptively treated with IV 
metronidazole which was stopped after the clinical picture was 
not in keeping with this and the first c difficile toxin was 
negative. The leukocytosis resolved and was 7.7 on discharge. 
Leukocytosis was likely reactive given bacteremia and asplenic 
state. 
.
# Elevated LFTs: Developed a new mild transaminitis up to max 
ALT 65 AST 101 with otherwise normal LFTs after commencement of 
antibiotics. Biliary dilatation on CT abdomen was at baseline. 
LFTs fluctuated and one point normalised. Still mild elevation 
on discharge. This was felt likely due to her antibiotics. LFTs 
should be rechecked in 1 week by her PCP in addition to Chem 7 
given IV vancomycin therapy.
.
# Hypothyroidism: We continued home levothyroxine
.
# Depression: We continued citalopram. 
 
Medications on Admission:
1. levothyroxine 150 mcg  
2. fentanyl 100 mcg/hr Patch 72 hr  
3. citalopram 60 mg Tablet  
4. senna 8.6 mg Tablet  
5. Colace 100 mg  
6. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H prn  
7. prochlorperazine maleate 5 -10 mg q 6 
 
Discharge Medications:
1. levothyroxine 75 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. fentanyl 100 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
3. citalopram 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).
Disp:*60 Capsule(s)* Refills:*2*
5. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
6. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
DAILY (Daily) as needed for constipation.
Disp:*30 * Refills:*0*
7. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO Q8H 
(every 8 hours) as needed for constipation.
Disp:*400 ML(s)* Refills:*0*
8. vancomycin 1,000 mg Recon Soln Sig: One (1) dose Intravenous 
Q 12H (Every 12 Hours) for 8 days: Last day ___.
Disp:*15 dose* Refills:*0*
9. hydromorphone 4 mg Tablet Sig: One (1) Tablet PO every four 
(4) hours as needed for pain.  
10. Outpatient Lab Work
Check Chem7 and LFTs (ALT, AST, Alk P, Bil, Alb) on ___ 
and fax to Dr ___ on ___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Chronic pancreatitis flare
Coagulase negative staphylococcus bacteremia secondary to ___ 
line infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a plleasure taking care of you during your stay at the 
___. You presented with a flar 
eof your chronic pancreatitis. You were treated with IV dilaudid 
(hydromorphone) for your pain and anti-nausea drugs for your 
nausea. We also found evidence of a blood infection of your PICC 
line after some bacteria grew on blood cultures taken from your 
line. The infection was causes by a bacteria called a "coagulase 
negative staphylococcus" which is a common organism on your skin 
and for this you were treated with IV vancomycin and your PICC 
line was removed. You had a high white blood cell count which we 
think was due to this bacterial infection. We briefly treated 
you with another antibiotic called metronidazole for possible C 
difficile (a bacterial infection of the gut which causes prifuse 
diarrhea and is generally associated with recent antibiotic use) 
but you were NOT found to have this after tests came back 
negative. Your high white cell count resolved  and was likely 
due to your blood infection. You will continue treatment for 
your blood infection with home IV antibiotic therapy with 
vancomycin until ___. You had a new PICC line placed for 
this. Your pain improved and you were able to be sent home with 
your home dilaudid dose. You were managing solid foods and were 
sent home on a regular diet however if this does not work out 
you may require a jejunostomy tube in the future for feeding. 
You were seen by the dietitian on the day of discharge who 
recommended dietary supplementation with Ensure which you can 
buy at your supermarket.
You have an appointment to see your PCP ___ ___ and your 
gastroenterologist on ___. 
Medication changes:
We STARTED IV vancomycin twice daily which should continue until 
___ and after this yo should have your PICC line removed 
to reduce risk of further infection
We STARTED laxatives for your constipation whcih you should take 
as needed
You were discharged on your previous home dose of dilaudid

You should continue your other medications as previously 
prescribed 
 
Followup Instructions:
___